US06743564B2
At 20 to 30° C., 22.2 g of cyanomethyl acrylate was added to 14.6 g of diethylamine, which was stirred for 10 hours, obtaining cyanomethyl 3-diethylaminopropionate.

reactant | cyanomethyl acrylate | 22.2 g | C(C=C)(=O)OCC#N | C5H5NO2
reactant | diethylamine | 14.6 g | C(C)NCC | C4H11N
product | cyanomethyl 3-diethylaminopropionate | C(C)N(CCC(=O)OCC#N)CC | C9H16N2O2
